US07449601B2
This example illustrates the preparation of 2-(3-chloro-phenyl)-4-methyl-pyridine.
10.0 g (0.064 mol) of 3-Chlorophenylboronic acid, 13.20 g (0.077 mol) of 2-bromo-5-methyl-pyridine, 20.84 g (0.064 mol) of cesium carbonate, 1.47 g (0.0016 mol) of tris(dibenzylideneacetone) dipalladium (0), 1.33 g (0.0038 mol) of di-tert-butyl-pyren-1-yl-phosphane and 100 ml of dioxane were refluxed at room for 12 hours. The reaction mixture was filtered and the solvent was removed under vacuum. The resulting mixture was purified by distillation in vacuum. Yield of 2-(3-chloro-phenyl)-4-methyl-pyridine was 7.09 g (45%) with b.p. at 114° C./0.1 mm. 1H NMR (CD2Cl2) 2.56 (s, 3H, Me) 7.40-8.80 (m, 7H, arom-H). Anal. Calcd. for C12H10ClN (Mol. Wt.: 203,67): C, 70,77; H, 4,95; N, 6,88. Found: C, 70,93; H, 5,14; N, 6,95. The structure has been confirmed by X-ray analysis.

reactant | 3-Chlorophenylboronic acid | 0.064 mol, 10.0 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 2-bromo-5-methyl-pyridine | 0.077 mol, 13.20 g | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | cesium carbonate | 0.064 mol, 20.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | di-tert-butyl-pyren-1-yl-phosphane | 0.0038 mol, 1.33 g | C(C)(C)(C)P(C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C(C)(C)C | C24H27P
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.0016 mol, 1.47 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(3-chloro-phenyl)-4-methyl-pyridine | ClC=1C=C(C=CC1)C1=NC=CC(=C1)C | C12H10ClN
